US06177443B1
Preparation of [4-(4-Trifluoromethylphenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-(4-methoxyphenyl)-methanone, (compound No. 5)
4-(4-Trifluoromethylphenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (100 mg, 0.35 mmol) was dissolved in dichloromethane (0.5 mL) and triethylamine (0.5 mL) was added. To this solution p-anisoyl chloride (60 mg, 0.35 mmol) dissolved in dichloromethane (0.5 ml) was added in one portion. The mixture was filtered and evaporated to afford 148 mg (100%) of the title compound.

reactant | 4-(4-Trifluoromethylphenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 0.35 mmol, 100 mg | FC(C1=CC=C(C=C1)C1NCCC2=C1C=CS2)(F)F | C14H12F3NS
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | p-anisoyl chloride | 0.35 mmol, 60 mg | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | [4-(4-Trifluoromethylphenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-(4-methoxyphenyl)-methanone | 148 mg, 100% | FC(C1=CC=C(C=C1)C1N(CCC2=C1C=CS2)C(=O)C2=CC=C(C=C2)OC)(F)F | C22H18F3NO2S
